US07579488B2
Step D. 6-{1-[4-(3,3-Dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-benzofuran-2-carboxylic acid ethyl ester
6-[1-Ethyl-1-(4-hydroxy-3-methyl-phenyl)-propyl]-benzofuran-2-carboxylic acid ethyl ester (1.58 g, 4.31 mmol) and 1-bromopinacolone (1.16 g, 6.47 mmol) and K2CO3 (1.78 g, 12.9 mmol) in acetone (50 mL) are reacted analogous to Example 30-D to give the title compound (1.80 g, 90%).

reactant | 6-[1-Ethyl-1-(4-hydroxy-3-methyl-phenyl)-propyl]-benzofuran-2-carboxylic acid ethyl ester | 4.31 mmol, 1.58 g | C(C)OC(=O)C=1OC2=C(C1)C=CC(=C2)C(CC)(C2=CC(=C(C=C2)O)C)CC | C23H26O4
reactant | 1-bromopinacolone | 6.47 mmol, 1.16 g | BrCC(C(C)(C)C)=O | C6H11BrO
reactant | K2CO3 | 12.9 mmol, 1.78 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 50 mL | CC(=O)C | C3H6O
product | 6-{1-[4-(3,3-Dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-benzofuran-2-carboxylic acid ethyl ester | 1.80 g, 90% | C(C)OC(=O)C=1OC2=C(C1)C=CC(=C2)C(CC)(CC)C2=CC(=C(C=C2)OCC(C(C)(C)C)=O)C | C29H36O5
